US08314250B2
To a solution of crude 2-{3-[((S)-3-chloro-phenyl)-1-dimethylaminomethyl-ethylamino)-methyl]-benzyl}-1,1-dioxo-1λ6-isothiazolidine-3-carboxylic acid ethyl ester (430 mg, approx. 0.96 mmol) in tetrahydrofuran (4 mL) was added lithium hydroxide hydrate (71 mg, 1.7 mmol) followed by water (1 mL). The reaction mixture was stirred at room temperature for 2 h, and then the mixture was concentrated under reduced pressure to remove tetrahydrofuran. The remaining solution was stirred and approximately 25 drops of 1 M hydrochloric acid were added to bring the pH to 4.5. The sample was stirred for 10 min and the aqueous solution was decanted away from the yellow gum. The gum was washed with water (2 mL). The combined aqueous layers were evaporated to dryness, and dried overnight to give 2-{3-[((S)-3-chloro-phenyl)-1-dimethylaminomethyl-ethylamino)-methyl]-benzyl}-1,1-dioxo-1λ6-isothiazolidine-3-carboxylic acid as a white residue (200 mg).

reactant | 1,1-dioxo-1λ6-isothiazolidine-3-carboxylic acid ethyl ester | approx. 0.96 mmol, 430 mg | C(C)OC(=O)C1NS(CC1)(=O)=O | C6H11NO4S
reactant | lithium hydroxide hydrate | 1.7 mmol, 71 mg | O.[OH-].[Li+]
reactant | water | 1 mL | O | H2O
solvent | tetrahydrofuran | 4 mL | O1CCCC1 | C4H8O
product | 1,1-dioxo-1λ6-isothiazolidine-3-carboxylic acid | O=S1(NC(CC1)C(=O)O)=O | C4H7NO4S
